US07375227B2
431C. (2-Bromo-ethyl)-carbamic acid benzyl ester
2-Bromoethylamine hydrobromide (15 g, 73 mmol) and N-(benzyloxycarbonyloxy)succinimide (15.5 g, 62 mmol) are suspended in CH2Cl2 (150 mL) at 0° C. TEA (9 mL, 65 mmol) is added slowly keeping the temperature at 0° C. After 1 h the mixture is washed with 0.5M aqueous KHSO4 (50 mL) and brine (50 mL), the organic phase is dried (Na2SO4), filtered and evaporated to provide the title compound.

reactant | 2-Bromoethylamine hydrobromide | 73 mmol, 15 g | Br.BrCCN
reactant | N-(benzyloxycarbonyloxy)succinimide | 62 mmol, 15.5 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (2-Bromo-ethyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCBr)=O | C10H12BrNO2
